US05739129
N-(1,3,5-Trimethyl-1H-pyrazol-4-yl)-benzene-1,2-diamine
To a solution of (2-Nitro-phenyl)-(1,3,5-trimethyl-1H-pyrazol-4-yl)-amine (8.6 g, 35 mmol) in ethyl acetate (175 mL) was added 10% palladium on carbon (1 g). The solution was stirred under a hydrogen atmosphere (50 psi) for 15 h and subsequently filtered through a bed of celite, washed with ethyl acetate, and concentrated in vacuo to yield the title compound (7.56 g): 1HNMR (CDCl3, 300 MHz) δ 6.74 (m, 3H), 6.32 (d, 1H, J=1.9, 7.2), 4.6 (s, 1H), 3.75 (s, 3H), 3.1 (s, 2H), 2.05 (m, 6H); low resolution MS(FAB) m/z 217 (MH+).

reactant | (2-Nitro-phenyl)-(1,3,5-trimethyl-1H-pyrazol-4-yl)-amine | 35 mmol, 8.6 g | [N+](=O)([O-])C1=C(C=CC=C1)NC=1C(=NN(C1C)C)C | C12H14N4O2
solvent | ethyl acetate | 175 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | N-(1,3,5-Trimethyl-1H-pyrazol-4-yl)-benzene-1,2-diamine | 7.56 g | CN1N=C(C(=C1C)NC=1C(=CC=CC1)N)C | C12H16N4
